US07504413B2
To a cooled (0° C.) solution of methyl 3-cyano-4-[(1-methylethyl)oxy]benzoate (100 g, 463 mmol) in tetrahydrofuran (500 mL) was added 10% potassium hydroxide (500 mL). The resulting solution was allowed to warm to room temperature and maintained for 16 h, at which time it was concentrated to remove the tetrahydrofuran. The residue was diluted with water (500 mL) and washed with ether (2×500 mL). The aqueous layer was then acidified with 3 N HCl and stood for 2 h. The solids were collected by filtration and washed several times with water, then dissolved in methylene chloride (1 L). The mostly homogeneous mixture was filtered through Celite® and concentrated to a minimal volume of methylene chloride. Collection of the solids by filtration gave 82 g (87%) of 3-cyano-4-[(1-methylethyl)oxy]benzoic acid as a white solid.

reactant | methyl 3-cyano-4-[(1-methylethyl)oxy]benzoate | 463 mmol, 100 g | C(#N)C=1C=C(C(=O)OC)C=CC1OC(C)C | C12H13NO3
reactant | potassium hydroxide | 500 mL | [OH-].[K+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 3-cyano-4-[(1-methylethyl)oxy]benzoic acid | 82 g, 87% | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
